US08138357B2
Method of Preparing 4-Amino-N-hydroxy-2-methoxybenzamide (Compound 13)
Methyl 2-methoxy-4-aminobenzoate (10 g, 55.25 mmol) and hydroxylamine hydrochloride (15.36 g, 221 mmol) were taken up in MeOH (80 ml) and a solution of KOH (15.4 g, 275 mmol) in MeOH (55 ml) was added carefully. The resultant mixture was stirred at reflux for 36 hrs. The volatiles were removed in vacuo. The residue was taken up in 1M NaOH (50 ml) and washed with ethyl acetate (EtOAc, 50 ml). Concentrated HCl was added slowly until precipitation of a solid (pH was 10). The solid was filtered off, washed with H2O, then methyl-tert-butyl ether (MTBE) and dried under vacuum. 1H NMR showed the solid contained approx. 1/3 molar equivalent of ethyl acetate. The solid was taken up in 1M NaOH (100 ml) and the EtOAc was removed in vacuo. Concentrated HCl was added carefully until precipitation of a solid (pH was 8). The solid was collected by filtration, washed with H2O, then MTBE and dried under vacuum to give 4.67 g (47%) of the title compound as a dark red solid.

reactant | Methyl 2-methoxy-4-aminobenzoate | 55.25 mmol, 10 g | COC1=C(C(=O)OC)C=CC(=C1)N | C9H11NO3
reactant | hydroxylamine hydrochloride | 221 mmol, 15.36 g | Cl.NO
reactant | KOH | 275 mmol, 15.4 g | [OH-].[K+]
solvent | MeOH | 80 ml | CO | CH4O
solvent | MeOH | 55 ml | CO | CH4O
product | 4-Amino-N-hydroxy-2-methoxybenzamide | 4.67 g, 47% | NC1=CC(=C(C(=O)NO)C=C1)OC | C8H10N2O3
